US07563905B2
The Synthesis of 3-benzylsulfanyl-5-furan-2-yl-4-(4-methoxy-benzyl)-4H-1,2,4-triazole
This compound was synthesized using the same methodology as described in Example 1 above, using 2-furancarboxylic acid hydrazide, 4-methoxybenzyl isothiocyanate and benzyl bromide as the starting materials.

reactant | 2-furancarboxylic acid hydrazide | O1C(=CC=C1)C(=O)NN | C5H6N2O2
reactant | 4-methoxybenzyl isothiocyanate | COC1=CC=C(CN=C=S)C=C1 | C9H9NOS
reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
product | 3-benzylsulfanyl-5-furan-2-yl-4-(4-methoxy-benzyl)-4H-1,2,4-triazole | C(C1=CC=CC=C1)SC1=NN=C(N1CC1=CC=C(C=C1)OC)C=1OC=CC1 | C21H19N3O2S
